Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / Latex / Iodinated Contrast 
Media - IV Dye
 
Attending: ___
 
Chief Complaint:
LGIB
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/complaint of bloody stools since this AM x4. Patient 
thinks she has probably been bleeding for a few days, as she has 
had vague abdominal discomfort and bloating for a few days. 
However, only noticed blood in stool today. Most recent BM (~8PM 
___ had frank red blood, filling up the toilet bowel (about 
one medium sized bottle of coke). Denies dark stools, maroon 
stools. Patient nauseous for a few months. No vomiting. Patient 
on a bowel regimen including miralax for constipation. Patient 
is not on blood thinners. No fevers, no chills. Hx of complete 
hysterectomy. Patient now incontinent of stool since yesterday.  

 Patient denies history of colon cancer and has always been up 
to date with her colonoscopies. She last had one in ___ which 
was difficult due to large bowel loops but did show diverticula 
(per GI note).  
 Patient endorses SOB but this is chronic for her; no chest pain 
or leg swelling. Endorses mild abdominal tenderness and nausea.  

 In the ED, initial vitals: 97.6 87 ___ 98% RA  
 Labs were significant for wbc 11, hgb 10, sodium 129  
 Exam pertinent for: rectal: frank red blood, no hemorrhoids  
 In the ED, she received tramadol 100 mg  
 Vitals prior to transfer: 98.0 78 107/65 17 100%  

 
Past Medical History:
BACK PAIN  
 HYPERPARATHYROIDISM  
 ARTHRITIS  
 ESSENTIAL TREMORS 
 
Social History:
___
Family History:
No history of colon cancer. No history of MI. Other cancers, but 
does not recall which.  
 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 ========================  
 VS: 98.1 122 / 70 77 18 97% RA  
 GEN: Alert, lying in bed, no acute distress; pleasant  
 HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
 NECK: Supple without LAD, flat JV  
 PULM: Generally CTA b/l without wheeze or rhonchi  
 COR: RRR (+)S1/S2 no m/r/g  
 ABD: Soft, mildly-tender with deep palpation, non-distended  
 EXTREM: Warm, well-perfused, no edema  
 NEURO: CN II-XII grossly intact, motor function grossly normal  

 
Discharge
----------------
VITALS:  98.3
PO 147 / 75 73 20 99 RA 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MM dry, oropharynx clear, TTP along 
the right TMJ area.   
NECK: Supple, JVP not elevated, no LAD  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, TTP in the LLQ and under the 
ribcage bilaterally. No hepatomegaly.  
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
NEURO: CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
Admission
----------------

___ 08:25PM   K+-3.9
___ 08:10PM   GLUCOSE-95 UREA N-18 CREAT-0.8 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-22 ANION GAP-16
___ 08:10PM   estGFR-Using this
___ 08:10PM   WBC-9.5 RBC-3.47* HGB-10.0* HCT-30.8* MCV-89 
MCH-28.8 MCHC-32.5 RDW-14.2 RDWSD-45.3
___ 08:10PM   PLT COUNT-261
___ 05:16PM   GLUCOSE-87 NA+-129* K+-GREATER TH CL--104 
TCO2-20*
___ 05:16PM   HGB-11.3* calcHCT-34
___ 03:45PM   VoidSpec-UNABLE TO 
___ 03:45PM   WBC-11.4* RBC-3.62* HGB-10.3* HCT-32.4* 
MCV-90 MCH-28.5 MCHC-31.8* RDW-15.2 RDWSD-48.1*
___ 03:45PM   NEUTS-76.7* LYMPHS-15.5* MONOS-6.5 EOS-0.5* 
BASOS-0.4 IM ___ AbsNeut-8.71* AbsLymp-1.76 AbsMono-0.74 
AbsEos-0.06 AbsBaso-0.05
___ 03:45PM   PLT COUNT-282
___ 03:45PM   ___ PTT-30.5 ___

Imaging
-------------
Final Report 
EXAMINATION:  CT Colonography 
  
INDICATION:  ___ year old woman with ___ year old female with 
history of 
hyperparathyroidism, spinal stenosis who presents with bright 
red blood per 
rectum x 1 day with LLQ pain on palpation. She also has 20 lb 
weight loss over 
4 months.  // Please assess for malignancy. 
  
TECHNIQUE:  Axial contiguous slices were obtained from the lung 
bases to the 
pubis symphysis after insufflation of intrarectal air in the 
prone and supine 
positions. Intravenous contrast was not administered. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 1.5 s, 18.0 cm; CTDIvol = 0.6 mGy 
(Body) DLP = 
11.4 mGy-cm. 
   2) Spiral Acquisition 5.2 s, 40.6 cm; CTDIvol = 2.0 mGy 
(Body) DLP = 80.3 
mGy-cm. 
   3) Spiral Acquisition 5.3 s, 41.6 cm; CTDIvol = 6.4 mGy 
(Body) DLP = 267.4 
mGy-cm. 
 Total DLP (Body) = 359 mGy-cm. 
  
COMPARISON:  CT abdomen from ___ 
  
FINDINGS:  
  
CT COLONOGRAPHY:  Unfortunately, the study is very limited.  
There is 
significant fluid within the sigmoid and right colon with minor 
retained fecal 
matter.  Additionally, there is underdistention of the sigmoid, 
left colon, 
and transverse colon. 
  
The sigmoid colon is very redundant and demonstrates mild 
diverticulosis 
  
CT ABDOMEN WITHOUT IV CONTRAST:  The liver, gallbladder, spleen, 
adrenals, and 
pancreas are unremarkable within the limits of this non enhanced 
CT.  A 4.7 cm 
exophytic simple cyst is seen arising from the mid pole of the 
right kidney.  
A 1.9 cm simple cyst is seen in the lower pole of the left 
kidney.  These were 
present previously in ___ and have mildly increased in size 
since.  The 
stomach and small bowel loops are unremarkable.  There is no 
free fluid, free 
air, or adenopathy. 
  
There is moderate amount sclerotic disease of the abdominal 
aorta without 
aneurysmal dilatation.  There is no retroperitoneal hematoma. 
  
CT PELVIS WITHOUT IV CONTRAST:  The bladder and rectum are 
within normal 
limits.  There is no free fluid. 
  
BONE WINDOWS:  There are no suspicious osseous lesions.  
Multilevel 
degenerative disc disease is seen in the lower thoracic and 
lumbosacral spine. 
  
LOWER CHEST:  There is minimal subsegmental atelectasis at the 
lung bases.  A 
fat containing Bochdalek's hernia is seen on the right. 
  
IMPRESSION:  
  
Very limited study due to retained fluid and underdistention of 
the colon. 
  
RECOMMENDATION(S):  A repeat study or conventional colonoscopy 
is recommended. 
  
NOTIFICATION:  The findings were discussed with ___, 
M.D. by ___ 
___, M.D. on the telephone on ___ at 2:00 ___, 35 minutes 
after 
discovery of the findings. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on ___ ___ 
2:14 ___ 

Discharge
---------------

___ 06:18AM BLOOD WBC-9.4 RBC-3.23* Hgb-9.5* Hct-29.4* 
MCV-91 MCH-29.4 MCHC-32.3 RDW-14.8 RDWSD-48.8* Plt ___
___ 06:18AM BLOOD Plt ___
___ 06:18AM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-141 
K-4.1 Cl-107 HCO3-21* AnGap-17
___ 06:18AM BLOOD Calcium-9.5 Phos-2.5* Mg-2.1
___ 05:37AM BLOOD calTIBC-213* Ferritn-218* TRF-164*
 
Brief Hospital Course:
For her GI bleed, likely lower based on hematochezia, hx of 
diverticula. BUN/Cr ratio not elevated and no maroon or black 
stools. Patient does endorse intermittent nausea for months. 
Patient w/o family history of colon cancer and notes she was up 
to date on her colonoscopy screenings but it is our 
understanding those colonoscopies were suboptimal preps. 
Standing weights confirm a 23 lb weight loss over last 6 months 
and family attributed to this stress (daughter has metastatic 
brain cancer and ___ takes care of her). She had a CT ABD 
non-con for "Abd Pain and bloating" 2 months ago, but this test 
was cancelled given a contrast allergy listed. She has known 
dilated biliary ducts, but MRCP in ___ was without pancreatic 
masses or compression of the ducts. It is reassuring that her 
H&H has been stable which would argue against a slow blood loss 
anemia typical of GI malignancies; rather her blood loss was 
acute. As far as her contrast allergy, her PCP is unclear how 
that was added to her chart and has no knowledge of it, but 
recommended not pursuing contrast imaging at this time. Fe 
studies are not consistent with a slow blood loss. 

Her CT colonography was poor study ___ to a poor prep. After 
discussion with the Gastroenterology consult team they felt she 
was safe for discharge but she should have this study repeated 
as an outpt. She had a normal b.m. without blood on the day of 
discharge.  She will schedule it with her PCP who is outside 
HCA.  

We are arranging for ___ and ___ services. 

Transitional Issues
[]Please get follow up H&H
[]Please schedule outpt CT colonography 
[]Pt may resume Atenolol for benign tremor as this affects her 
quality of life, but this medication was held during her 
admission.
[]Pt does not have a history of stroke or MI, thus her primary 
prevention Aspirin was held during admission and at discharge. 
Given the risks/benefits, this may cause more harm and we 
recommended stopping completely, but this discussion can 
continue as outpt. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 1500 mg PO DAILY 
2. Vitamin D ___ UNIT PO 1X/WEEK (___) 
3. Aspirin 81 mg PO DAILY 
4. Atenolol 25 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. TraMADol 100 mg PO Q8H 
7. Acetaminophen 1000 mg PO Q8H 

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN nausea  
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth Q8H:PRN Disp #*21 
Tablet Refills:*0 
2.  Simethicone 120 mg PO QID:PRN bloating/gas 
RX *simethicone [Gas Relief Extra Strength] 125 mg 1 capsule by 
mouth QID:PRN Disp #*60 Capsule Refills:*0 
3.  Acetaminophen 1000 mg PO Q8H  
4.  Atenolol 25 mg PO DAILY  
5.  Calcium Carbonate 1500 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  TraMADol 100 mg PO Q8H  
8.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
LGIB

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to us because of blood in your stools. We believe this 
came from somewhere in your colon. We consulted our GI doctors 
who ___ your bleeding had stabilized and did not warrant a 
colonoscopy. Instead, we attempted a CT colonography or virtual 
colonoscopy; however, the bowel prep was not sufficient and the 
radiologist were not able to visualize your colon. You should 
follow up with your PCP to have this repeated. Your vitals signs 
and blood levels are stable. 
We had you work with our physical therapist who felt you should 
stay another night in the hospital because you are at risk for 
falls. They wanted to provide more physical therapy to make you 
more safe to be home, but, because of family obligations, you 
elected to go home today. We have set up a physical therapist 
and ___ to come see you starting ___. If you have any 
bleeding in your stools while at home, you must return to the 
emergency room! 

We wish you all the best,
Your ___ Team. 
 
Followup Instructions:
___